US04228241
distearate.
sorbitan monopalmitate, sorbitan monooleate,

reactant | sorbitan monopalmitate | CCCCCCCCCCCCCCCC(=O)OCC([C@@H]1[C@@H]([C@H](CO1)O)O)O | C22H42O6
reactant | sorbitan monooleate | CCCCCCCC/C=C\CCCCCCCC(=O)OCC([C@@H]1[C@@H]([C@H](CO1)O)O)O | C24H44O6
product | distearate | CCCCCCCCCCCCCCCCCC(=O)[O-].CCCCCCCCCCCCCCCCCC(=O)[O-] | InChI=1S/2C18H36O2/c2*1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18(19)20/h2*2-17H2,1H3,(H,19,20)/p-2
